US08530504B2
6-Bromo-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]pyrazolo[5,1-b][1,3]thiazole
To a 1,4-dioxane (90.0 mL) solution of 6-bromo-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]pyrazolo[5,1-b][1,3]thiazole-7-carboxylic acid (5.00 g, 11.7 mmol) was added concentrated hydrochloric acid (14.9 mL) and the mixture was heated to reflux for 13 hours. After the reaction was completed, the solvent was distilled off under reduced pressure, water (50 mL) was added to the residue, and the precipitated solid was subjected to suction filtration and dried to obtain the title compound (1.12 g, 2.92 mmol).

reactant | 6-bromo-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]pyrazolo[5,1-b][1,3]thiazole-7-carboxylic acid | 11.7 mmol, 5.00 g | BrC1=NN2C(SC=C2C2=C(C=C(C=C2OC)COC)OC)=C1C(=O)O | C16H15BrN2O5S
reactant | hydrochloric acid | 14.9 mL | Cl | ClH
solvent | 1,4-dioxane | 90.0 mL | O1CCOCC1 | C4H8O2
product | 6-Bromo-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]pyrazolo[5,1-b][1,3]thiazole | 2.92 mmol, 1.12 g | BrC1=NN2C(SC=C2C2=C(C=C(C=C2OC)COC)OC)=C1 | C15H15BrN2O3S
